US05587515
To 746 g of methyl beta-dipropylaminopropionate which was prepared in the same manner as in Example 4 were added 15.4 g of 28% methanolic solution of sodium methoxide, then 293 g (4.8 moles) of ethanolamine were added dropwise thereinto and the mixture was made to react at 70° C. for one hour. After completion of the reaction, the mixture was neutralized, desalted, 0.3 g of phenothiazine were added thereto and the low-boiling-point substances were removed by distillation to give 858 grams of N-hydroxyethyl-beta-dipropylaminopropionamide. The purity as checked by gas chromatography was 98% and the yield was 97.3%.

reactant | methyl beta-dipropylaminopropionate | 746 g | C(CC)N(CCC(=O)OC)CCC | C10H21NO2
reactant | sodium methoxide | C[O-].[Na+]
reactant | ethanolamine | 4.8 moles, 293 g | C(O)CN | C2H7NO
catalyst | phenothiazine | 0.3 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | N-hydroxyethyl-beta-dipropylaminopropionamide | 858 grams, yield was 97.3% | OCCNC(CCN(CCC)CCC)=O | C11H24N2O2
